US04053651
N-(3-Mercaptopropanoyl)-L-cysteine
By susbtituting L-cysteine for the L-alanine in the procedure of Example 1, and then treating the product by the procedure of Example 2, N-(3-benzoylthiopropanoyl)-L-cysteine and N-(3-mercaptoproanoyl)-L-cysteine are obtained.

reactant | L-cysteine | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | L-alanine | N[C@@H](C)C(=O)O | C3H7NO2
reactant | N-(3-benzoylthiopropanoyl)-L-cysteine | C(C1=CC=CC=C1)(=O)SCCC(=O)N[C@@H](CS)C(=O)O | C13H15NO4S2
product | N-(3-Mercaptopropanoyl)-L-cysteine | SCCC(=O)N[C@@H](CS)C(=O)O | C6H11NO3S2
